US06951875B2
b) 6-[2-(4-Fluoro-phenyl)-vinyl]-pyridine-2-carbonitrile
Following the general method described in example 2b, 2-[2-(4-fluoro-phenyl)-vinyl]-pyridine 1-oxide was reacted first with dimethylsulfate and then with NaCN. After extraction and crystallization the title compound was obtained as a yellow crystalline material. MS: m/e=224 (M+).

reactant | 2-[2-(4-fluoro-phenyl)-vinyl]-pyridine 1-oxide | FC1=CC=C(C=C1)C=CC1=[N+](C=CC=C1)[O-] | C13H10FNO
reactant | dimethylsulfate | COS(=O)(=O)OC | C2H6O4S
reactant | NaCN | [C-]#N.[Na+]
product | 6-[2-(4-Fluoro-phenyl)-vinyl]-pyridine-2-carbonitrile | FC1=CC=C(C=C1)C=CC1=CC=CC(=N1)C#N | C14H9FN2
